US06046201
N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To 4.07 g of potassium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate and 3.00 g of 12-aminododecanol was added 50 ml of methylene chloride and then 2.86 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCI) and 2.01 g of 1-hydroxybenzotriazole (HOBt) were added while stirring at room temperature. The mixture was stirred at room temperature for 15 hours. To the reaction solution were added water and diisopropyl ether and subsequent filtration and drying under reduced pressure afforded 5.67 g of the title compound as a crystal.

reactant | potassium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate | 4.07 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[K+]
reactant | 12-aminododecanol | 3.00 g | NCCCCCCCCCCCCO | C12H27NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.86 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 2.01 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 5.67 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
